US04912098
1.0 g of 17-butyryloxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione is reacted in pyridine with 5 ml of valeric anhydride as described in Example 10. After performing the usual working-up operation and after purification on 65 g of silica gel with a methylene chloride-acetone gradient (0-15% acetone), 980 mg of 17-butyryloxy-11β-hydroxy-6α-methyl-21-valeryloxy-4-pregnene-3,20-dione is isolated.

reactant | 17-butyryloxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione | 1.0 g | C(CCC)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C26H38O6
reactant | valeric anhydride | 5 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17-butyryloxy-11β-hydroxy-6α-methyl-21-valeryloxy-4-pregnene-3,20-dione | 980 mg | C(CCC)(=O)O[C@]1(C(COC(CCCC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C31H46O7
